US04252816
A. 1-(2-Hydroxyethyl)-2-(2-aminoethyl)-6-chlorobenzimidazole dihydrochloride hemihydrate
A mixture of 9.7 g. (52 mmole) 2-(2-hydroxyethylamino)-4-chloroaniline, 6.9 g. (78 mmole) β-alanine, 46 ml. concentrated hydrochloric acid and 54 ml. of water is heated at reflux with stirring for 24 hrs. After cooling, the solution is concentrated, and made basic with 10% aqueous sodium hydroxide. Continuous liquid-liquid extraction of the aqueous solution with ethyl acetate affords 9.9 g. of the product, which is converted to it hydrochloride salt. The product has a m.p. of 196°-200° C. after recrystallization from methanol/ethyl acetate.

reactant | 2-(2-hydroxyethylamino)-4-chloroaniline | 52 mmole | OCCNC1=C(N)C=CC(=C1)Cl | C8H11ClN2O
reactant | β-alanine | 78 mmole | NCCC(=O)O | C3H7NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(2-Hydroxyethyl)-2-(2-aminoethyl)-6-chlorobenzimidazole dihydrochloride hemihydrate | O.Cl.Cl.OCCN1C(=NC2=C1C=C(C=C2)Cl)CCN.OCCN2C(=NC1=C2C=C(C=C1)Cl)CCN.Cl.Cl | InChI=1S/2C11H14ClN3O.4ClH.H2O/c2*12-8-1-2-9-10(7-8)15(5-6-16)11(14-9)3-4-13;;;;;/h2*1-2,7,16H,3-6,13H2;4*1H;1H2
